US07635715B2
Step A: Preparation of 2-(bromomethyl)-1-chloro-3-iodobenzene
A mixture of 1-chloro-3-iodo-2-methylbenzene (11 g, 44 mmol) in 60 mL CCl4 was stirred at 70° C. and treated with 1-bromopyrrolidine-2,5-dione (12 g, 65 mmol) and dibenzoyl peroxide (1.1 g, 4.4 mmol) slowly. The resulting mixture was refluxed for 15 hours. The mixture was cooled to room temperature, filtered through a plug of Celite, and washed with 10% EtOAc/hexane. The organic was concentrated and purified by column chromatography (0-10% EtOAc/hexane) to give 14 g pink solid.

reactant | 1-chloro-3-iodo-2-methylbenzene | 44 mmol, 11 g | ClC1=C(C(=CC=C1)I)C | C7H6ClI
reactant | 1-bromopyrrolidine-2,5-dione | 65 mmol, 12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 4.4 mmol, 1.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-1-chloro-3-iodobenzene | 14 g | BrCC1=C(C=CC=C1I)Cl | C7H5BrClI
